US04782089
2-Amino-3-benzoyl-γ-oxobenzenebutanoic acid
A solution of 8.7 g (0.03 mole) of 7-benzoyl-1H-indole-3-propanoic acid in 300 ml of ethyl acetate and 100 ml of abs. ethanol was ozonized until ozone was present above the solution. The yellow solution was then treated with 16.6 g (0.1 mole) of potassium iodide in 30 ml of acetic acid and 30 ml of water. After stirring 1 hr, the liberated iodine was removed by washing with a 15% sodium thiosulfate solution and the yellow organic layer was concentrated. The residue was dissolved in 100 ml of ethanol and 20 ml of 6N hydrochloric acid and heated at reflux for 16 hr. The dark red solution was concentrated and the residue was partitioned between dil. sodium hydroxide and methylene chloride. The basic aqueous layer was made acidic and the pH was adjusted to 2-3 by the addition of dil. sodium hydroxide. The solid was collected and dried, then recrystallized from benzene isopropyl ether to give 5.9 g (67 %) of yellow powder, m.p. 161.0°-2.5° C.

reactant | 7-benzoyl-1H-indole-3-propanoic acid | 0.03 mole, 8.7 g | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C(=CNC12)CCC(=O)O | C18H15NO3
reactant | ethanol | C(C)O | C2H6O
reactant | ozone | O=[O+][O-] | O3
reactant | potassium iodide | 0.1 mole, 16.6 g | [I-].[K+]
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
product | 2-Amino-3-benzoyl-γ-oxobenzenebutanoic acid | 5.9 g, 67 % | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)C(CCC(=O)O)=O | C17H15NO4
